US04259489
Ethyl n-hexanoate and diethyl oxalate were subjected to Claisen condensation, and then hydrolyzed to form 2-oxo-n-hexanoic acid. This product was then condensed with diaminomaleonitrile to form 9.1 g (0.042 mole) of 2,3-dicyano-5-hydroxy-6-n-pentylpyrazine (m.p. 61°-64° C.). The product was dissolved in 120 g of phosphorus oxychloride, and 3.32 g (0.042 mole) of pyridine was added. The mixture was refluxed for 5 hours, and then worked up in the same way as in Example 3 and the resulting oily product was concentrated under reduced pressure. The resulting product was chromatographed on a silica gel column with benzene as an eluent to afford 6.0 g (yield 61%) of 2,3-dicyano-5-chloro-6-n-pentyl-pyrazine as a yellow liquid.

reactant | Ethyl n-hexanoate | C(CCCCC)(=O)OCC | C8H16O2
reactant | diethyl oxalate | C(C(=O)OCC)(=O)OCC | C6H10O4
product | 2-oxo-n-hexanoic acid | O=C(C(=O)O)CCCC | C6H10O3
